US09422292B2
A mixture of 1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (300 mg, 1.5 mmol), 5-chloro-2-fluoropyridine (600 mg, 4.5 mmol) and K2CO3 (621 mg, 4.5 mmol) in 10 mL of DMF was stirred at 170° C. for 30 min. After the solvent was removed in vacuo, the product was purified by flash chromatography eluting with DCM:MeOH=10:1 to give 6-(5-chloropyridin-2-yl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine as a yellow solid. (50 mg, 11.3%).

reactant | 1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 1.5 mmol, 300 mg | CC1=NN=C2N1C1=C(NCC2)C=CC=C1 | C11H12N4
reactant | 5-chloro-2-fluoropyridine | 4.5 mmol, 600 mg | ClC=1C=CC(=NC1)F | C5H3ClFN
reactant | K2CO3 | 4.5 mmol, 621 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-(5-chloropyridin-2-yl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | ClC=1C=CC(=NC1)N1C2=C(N3C(CC1)=NN=C3C)C=CC=C2 | C16H14ClN5
